US07501518B2
Tert-butyl 3-(aminomethyl)-1-azetidinecarboxylate (J. Med. Chem., (2001) 44:94-104) (441 mg, 2.35 mmol) was dissolved in CH2Cl2 (2 mL) and TFA (1.5 mL) and the mixture was stirred for 2 hours at room temperature. The volatiles were removed under reduced pressure and the residue was dissolved in dry MeOH (5 mL). Solid NaHCO3 was added (˜500 mg) and the mixture was stirred for 17 hours. MeOH was removed, CH2Cl2 (50 mL) was added and the mixture was filtered through a plug of Celite. The filtrate was concentrated and the residue was dissolved in DMF (15 mL). DIPEA (0.817 mL, 4.70 mmol) and 2-nitrobenzenesulfonyl chloride (580 mg, 2.58 mmol) were added and the mixture was stirred for 2 hours. The mixture was concentrated and the residue was purified by column chromatography on silica gel (100% EtOAc) to provide [1-(2-nitro-benzenesulfonyl)-azetidin-3-yl]-methanol (167 mg, 26%). 1H NMR (CDCl3) δ 2.73-2.80 (m, 1H), 3.76 (dd, 2H, J=5.4, 5.7 Hz), 3.90 (dd, 2H, J=5.7, 8.1 Hz), 4.17 (dd, 2H, J=8.1, 8.1 Hz).

reactant | Tert-butyl 3-(aminomethyl)-1-azetidinecarboxylate | 2.35 mmol, 441 mg | NCC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DIPEA | 4.70 mmol, 0.817 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-nitrobenzenesulfonyl chloride | 2.58 mmol, 580 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [1-(2-nitro-benzenesulfonyl)-azetidin-3-yl]-methanol | 167 mg, 26% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC(C1)CO | C10H12N2O5S
